US05939392
(i) HO-CH2COOnHex
To 215 mg (2.82 mmol) glycolic acid in 12.8 ml CH3CN was added 719 mg (3.39 mmol) 1-hexyl iodide and 429 mg (2.82 mmol) DBU. After stirring over night and reflux for 4 h, the solvent was evaporated, ethylacetat and 1 M KHSO4 was added and the phases were separated. The organic layer was washed with brine, dried (MgSO4), filtered and evaporated in vacuo to give 333 mg (74%) of the product.

reactant | glycolic acid | 2.82 mmol, 215 mg | C(CO)(=O)O | C2H4O3
reactant | 1-hexyl iodide | 3.39 mmol, 719 mg | C(CCCCC)I | C6H13I
reactant | DBU | 2.82 mmol, 429 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH3CN | 12.8 ml | CC#N | C2H3N
product | HO-CH2COOnHex | 333 mg, 74% | OCC(=O)OCCCCCC | C8H16O3
